US04788206
As described in Example 99, (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid methyl ester (4.9 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 3 hours the reaction was worked up in the usual manner and the crude acid was crystallized from ether-hexane to provide 3.27 g of (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid, mp 98°-99.5° C.

reactant | (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid methyl ester | 4.9 g | COC(\C=C\C=C(/CCCCC)\C1=CC(=C(C=C1)OC)OC)=O | C19H26O4
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid | 3.27 g | COC=1C=C(C=CC1OC)/C(=C/C=C/C(=O)O)/CCCCC | C18H24O4
